US05034411
4-[2-[ethyl[3-(propylsulfinyl)propyl]amino]-1-hydroxyethyl]-benzonitrile
0.9 g of 4-[2-[ethyl[3-(propylthio)propyl]amino]-1-hydroxyethyl]-benzonitrile was oxidized with 0.7 g of m-chloroperbenzoic acid in analogy with example 2. Yield: 0.7 g of the title compound.

reactant | 4-[2-[ethyl[3-(propylthio)propyl]amino]-1-hydroxyethyl]-benzonitrile | 0.9 g | C(C)N(CC(O)C1=CC=C(C#N)C=C1)CCCSCCC | C17H26N2OS
reactant | m-chloroperbenzoic acid | 0.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 4-[2-[ethyl[3-(propylsulfinyl)propyl]amino]-1-hydroxyethyl]-benzonitrile | Yield: 0.7 g | C(C)N(CC(O)C1=CC=C(C#N)C=C1)CCCS(=O)CCC | C17H26N2O2S
